US06462092B1
The 3-[(3-aminophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol from EX-528C (50 mg, 0.12 mmol) was dissolved in 1 mL of dichloromethane. Triethylamine (25 μL, 0.18 mmol) followed by 4-fluorobenzene-sulfonyl chloride were added. The solution was stirred at room temperature for 5 hours, at which time HPLC analysis indicated that no free amine starting material remained. The reaction was quenched with water and filtered through pre-wetted celite eluting with ethyl acetate. The solvent was evaporated, and the residue was purified by reverse phase HPLC eluting with 10% to 90% acetonitrile in water to afford 20.1 mg (29%) of the desired 4-fluoro-N-[3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-(3,3,3-trifluoro-2-hydroxypropyl)amino]phenyl]benzenesulfonamide product as a yellow oil, which was greater than 98% pure by reverse phase HPLC analysis. HRMS calcd. for C24H21F8N2O4S: 585.1094 [M+H]+, found: 585.1083. 1H NMR (CDCl3) δ 3.6 (m, 2H), 3.8 (dd, 1H), 4.3 (m, 1H), 4.6 (s, 2H), 5.9 (tt, 1H), 6.4 (d. 1H), 6.5-6.6 (m, 3H), 6.9-7.4 (m. 7H), 7.6 (m, 1H).

reactant | 3-[(3-aminophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | NC=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H17F7N2O2
reactant | Triethylamine | 0.18 mmol, 25 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzene-sulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-fluoro-N-[3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-(3,3,3-trifluoro-2-hydroxypropyl)amino]phenyl]benzenesulfonamide | 20.1 mg, 29% | FC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H20F8N2O4S
